US05382679
Using in the procedure of Example 1 acetyl chloride, in place of pivaloyl chloride, L-glutathione reduced (15.4 g) provides, after usual work-up, a crude white solid which is dissolved in warm acetone/water (2/1; 40° C.; 300 ml). The obtained solution is further diluted with more acetone (100 ml) and cooled on ice-water bath. After about two hours the white crystalline precipitate is collected, washed with the solvent (40 ml) and dried under vacuum affording γ-L-glutamyl-S-acetyl-L-cysteinyl-glycine (14.8 g yield=85%)

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | L-glutathione reduced | 15.4 g | C(CC(=O)N[C@@H](CS)C(=O)NCC(=O)O)[C@@H](C(=O)O)N | C10H17N3O6S
solvent | acetone water | 300 ml | CC(=O)C.O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | γ-L-glutamyl-S-acetyl-L-cysteinyl-glycine | 14.8 g, yield=85% | N[C@@H](CCC(=O)N[C@@H](CSC(C)=O)C(=O)NCC(=O)O)C(=O)O | C12H19N3O7S
